US05194442
2,3-Dihydro-1-benzoxepin
800 ml of toluene are poured over 53 g (0.323 mole) of 5-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin and, with addition of 3.7 g of p-toluenesulfonic acid monohydrate, the mixture is refluxed with a water trap for 1.5 hours. The cold organic phase is washed with saturated sodium bicarbonate solution, water and sodium chloride solution, and the solvent is evaporated off in vacuo. Kugelrohr distillation at 30°-35° C./0.008 torr results in 44 g of oil. p 1H NMR (60 MHz/CDCl3): δ=7.23-6.70 (m, 4H); δ=6.30 (m, 1H); δ=6.07-5.70 (m, 1H); δ=4.20 (t, J=5 Hz, 2H); δ=2.63 (m, 2H).

reactant | 5-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin | 0.323 mole, 53 g | OC1CCCOC2=C1C=CC=C2 | C10H12O2
reactant | p-toluenesulfonic acid monohydrate | 3.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dihydro-1-benzoxepin | 44 g | O1CCC=CC2=C1C=CC=C2 | C10H10O
